US07153548B2
(2) Synthesis of intermediate 2,3,4-tri(4-hydroxybutyl-oxy)cinnamic acid
Into a three-neck flask, 2,3,4-tri(4-acetyloxy-butyloxy)benzaldehyde (40.0 g), malonic acid (10.6 g), piperidine (1 ml) and 100 mL of pyridine were added and stirred at 110° C. for 5 hours. After cooling, water (500 ml) and potassium hydroxide (26.0 g) were added and stirred at 60° C. for 2 hours. After cooling, concentrated hydrochloric acid was added until the reaction solution became acidic, and the resulting reaction solution was extracted with ethyl acetate and washed with water. The extract was concentrated and then purified by column chromatography to obtain the titled compound (30.1 g). Yield: 90%.

reactant | 2,3,4-tri(4-acetyloxy-butyloxy)benzaldehyde | 40.0 g | C(C)(=O)OCCCCOC1=C(C=O)C=CC(=C1OCCCCOC(C)=O)OCCCCOC(C)=O | C25H36O10
reactant | malonic acid | 10.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | potassium hydroxide | 26.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2,3,4-tri(4-hydroxybutyl-oxy)cinnamic acid | 30.1 g, Yield: 90% | OCCCCOC1=C(C=CC(=O)O)C=CC(=C1OCCCCO)OCCCCO | C21H32O8
